US07504371B2
Part b. Preparation of 4-Methyl-(α-(4-methylphenyl)-(α-[(4-methylphenyl)methyl]-benzenepropanenitrile: A flask containing 1.0 g (2 mmol) of sodium cyanide (95%) dissolved in 5 mL of 50% NaOH aqueous solution is charged with 0.3 g silica catalyst, followed by 4-methylbenzyl chloride (6.8 mmol) and 1 mL toluene. The flask is placed in an oil bath and heated at 40° C. with stirring for 48 h, after which 10 mL toluene is added. The organic layer is filtered and the filtrate evaporated to yield 4-methyl-α-(4-methylphenyl)-α-[(4-methylphenyl)methyl]-benzenepropanenitrile.

reactant | α-[(4-methylphenyl)methyl]-benzenepropanenitrile | CC1=CC=C(C=C1)CC(C#N)CC1=CC=CC=C1 | C17H17N
reactant | sodium cyanide | 2 mmol, 1.0 g | [C-]#N.[Na+]
reactant | 4-methylbenzyl chloride | 6.8 mmol | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 5 mL | [OH-].[Na+]
product | 4-methyl-α-(4-methylphenyl)-α-[(4-methylphenyl)methyl]-benzenepropanenitrile | CC1=CC=C(C=C1)CC(C#N)(CC1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C25H25N
